* BFQ256A SPICE MODEL
* PHILIPS SEMICONDUCTORS
* Date : September 1995
*
* PACKAGE : SOT223A DIE MODEL : BFQ254
* 1: COLLECTOR; 2: BASE; 3: EMITTER;
.SUBCKT BFQ256A 1 2 3
Q1 6 5 7 7 BFQ254
* SOT223A parasitic model
               Lb  4 5 1.5n 
               Le  7 8 .5n
               L1  2 4 .025n
               L2  1 6 1.19n
               L3  3 8 .6n
              Ccb  4 6 16f
              Cbe  4 8 182f
*
* PHILIPS SEMICONDUCTORS                                     Version:   1.0
* Filename:   BFQ254.PRM                                     Date: Feb 1992
*
.MODEL  BFQ254   NPN
+              IS = 2.39998E-015
+              BF = 3.28282E+001
+              NF = 9.97204E-001
+             VAF = 1.07842E+002
+             IKF = 9.69923E-001
+             ISE = 4.62168E-014
+              NE = 1.47255E+000
+              BR = 1.00000E+000
+              NR = 1.00000E+000
+             VAR = 3.00000E+000
+              NC = 2.00000E+000
+              RB = 5.00000E+000
+             IRB = 1.00000E-006
+             RBM = 5.00000E+000
+              RE = 9.58788E-001
+              RC = 1.00000E+001
+              EG = 1.11000E+000
+             XTI = 3.00000E+000
+             CJE = 1.21572E-011
+             VJE = 6.00000E-001
+             MJE = 2.91315E-001
+              TF = 1.15000E-010
+             XTF = 1.00000E+002
+             VTF = 2.00000E+000
+             ITF = 3.50000E-001
+             CJC = 5.00099E-012
+             VJC = 3.91551E-001
+             MJC = 3.46413E-001
+            XCJC = 2.10000E-001
+             CJS = 2.00000e-012
.ENDS

